.include TSMC_180nm.txt

.param LAMBDA=0.09u
.param W=20*LAMBDA
.param width_N=W
.param width_P=2*W
.global gnd vdd
.option scale=0.09u

Vdd vdd gnd 1.8

*Vin_a0 a0 gnd pwl(0 0V 1ns 0V 1.05ns 1.8V 2ns 1.8V 2.05ns 0V 3ns 0V 3.05ns 1.8V 4ns 1.8V 4.05ns 0V 5ns 0V)
*Vin_a1 a1 gnd pwl(0 0V 1ns 0V 1.05ns 1.8V 2ns 1.8V 2.05ns 0V 3ns 0V 3.05ns 1.8V 4ns 1.8V 4.05ns 0V 5ns 0V)
*Vin_a2 a2 gnd pwl(0 0V 1ns 0V 1.05ns 1.8V 2ns 1.8V 2.05ns 0V 3ns 0V 3.05ns 1.8V 4ns 1.8V 4.05ns 0V 5ns 0V)
*Vin_a3 a3 gnd pwl(0 0V 1ns 0V 1.05ns 1.8V 2ns 1.8V 2.05ns 0V 3ns 0V 3.05ns 1.8V 4ns 1.8V 4.05ns 0V 5ns 0V)

*Vin_b0 b0 gnd pwl(0 0V 1ns 0V 1.05ns 0V 2ns 0V 2.05ns 0V 3ns 0V 3.05ns 1.8V 4ns 1.8V 4.05ns 0V 5ns 0V)
*Vin_b1 b1 gnd pwl(0 0V 1ns 0V 1.05ns 1.8V 2ns 1.8V 2.05ns 0V 3ns 0V 3.05ns 1.8V 4ns 1.8V 4.05ns 0V 5ns 0V)
*Vin_b2 b2 gnd pwl(0 0V 1ns 0V 1.05ns 1.8V 2ns 1.8V 2.05ns 0V 3ns 0V 3.05ns 1.8V 4ns 1.8V 4.05ns 0V 5ns 0V)
*Vin_b3 b3 gnd pwl(0 0V 1ns 0V 1.05ns 1.8V 2ns 1.8V 2.05ns 0V 3ns 0V 3.05ns 1.8V 4ns 1.8V 4.05ns 0V 5ns 0V)

Vin_a0 a0 gnd PULSE(1.8 0 0 50ps 50ps 1ns 2ns 0)
Vin_a1 a1 gnd PULSE(1.8 0 0 50ps 50ps 2ns 4ns 0)
Vin_a2 a2 gnd PULSE(1.8 0 0 50ps 50ps 4ns 8ns 0)
Vin_a3 a3 gnd PULSE(1.8 0 0 50ps 50ps 8ns 16ns 0)

Vin_b0 b0 gnd PULSE(1.8 0 0 50ps 50ps 16ns 32ns 0)
Vin_b1 b1 gnd PULSE(1.8 0 0 50ps 50ps 32ns 64ns 0)
Vin_b2 b2 gnd PULSE(1.8 0 0 50ps 50ps 64ns 128ns 0)
Vin_b3 b3 gnd PULSE(1.8 0 0 50ps 50ps 128ns 256ns 0)



.subckt inv in out vdd gnd S=1
M1000 out in vdd w_0_n60# CMOSP w=40 l=2
+  ad=200 pd=90 as=200 ps=90
M1001 out in gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=100 ps=50
C0 out w_0_n60# 0.08fF
C1 out gnd 0.24fF
C2 in w_0_n60# 0.09fF
C3 in gnd 0.05fF
C4 out in 0.05fF
C5 vdd w_0_n60# 0.14fF
C6 vdd out 0.45fF
C7 gnd Gnd 0.15fF
C8 out Gnd 0.09fF
C9 vdd Gnd 0.03fF
C10 in Gnd 0.16fF
C11 w_0_n60# Gnd 1.48fF
.ends inv



.subckt g_calc ai bi gi vdd gnd S=1 
M1000 gi a_7_63# vdd inverter_0/w_0_n60# CMOSP w=40 l=2
+  ad=200 pd=90 as=600 ps=270
M1001 gi a_7_63# gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=300 ps=140
M1002 a_7_63# bi a_7_3# Gnd CMOSN w=40 l=2
+  ad=200 pd=90 as=240 ps=92
M1003 a_7_3# ai gnd Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1004 a_7_63# ai vdd w_n6_53# CMOSP w=40 l=2
+  ad=199 pd=73 as=0 ps=0
M1005 vdd bi a_7_63# w_n6_53# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
C0 ai vdd 0.13fF
C1 inverter_0/w_0_n60# a_7_63# 0.09fF
C2 a_7_63# gnd 0.11fF
C3 a_7_63# a_7_3# 0.47fF
C4 a_7_63# bi 0.08fF
C5 w_n6_53# bi 0.12fF
C6 inverter_0/w_0_n60# gi 0.08fF
C7 gi gnd 0.24fF
C8 a_7_63# vdd 0.86fF
C9 w_n6_53# ai 0.12fF
C10 w_n6_53# vdd 0.20fF
C11 a_7_3# gnd 0.47fF
C12 gnd bi 0.02fF
C13 gi vdd 0.45fF
C14 a_7_63# w_n6_53# 0.04fF
C15 inverter_0/w_0_n60# vdd 0.14fF
C16 ai gnd 0.02fF
C17 ai bi 0.20fF
C18 bi vdd 0.13fF
C19 a_7_63# gi 0.05fF
C20 a_7_3# Gnd 0.01fF
C21 gnd Gnd 0.41fF
C22 vdd Gnd 0.04fF
C23 bi Gnd 0.07fF
C24 ai Gnd 0.07fF
C25 w_n6_53# Gnd 1.38fF
C26 gi Gnd 0.11fF
C27 a_7_63# Gnd 0.29fF
C28 inverter_0/w_0_n60# Gnd 1.51fF
.ends g_calc



.subckt pi_calc ai bi pi vdd gnd S=1 
M1000 a_32_9# a_16_9# gnd Gnd CMOSN w=20 l=2
+  ad=80 pd=48 as=400 ps=200
M1001 pi bi a_54_9# Gnd CMOSN w=20 l=2
+  ad=200 pd=100 as=80 ps=48
M1002 vdd bi a_36_6# w_3_39# CMOSP w=40 l=2
+  ad=800 pd=360 as=200 ps=90
M1003 a_54_9# ai gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1004 a_54_49# ai vdd w_3_39# CMOSP w=40 l=2
+  ad=160 pd=88 as=0 ps=0
M1005 pi a_36_6# a_54_49# w_3_39# CMOSP w=40 l=2
+  ad=400 pd=180 as=0 ps=0
M1006 a_32_49# a_16_9# vdd w_3_39# CMOSP w=40 l=2
+  ad=160 pd=88 as=0 ps=0
M1007 a_16_9# ai gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=0 ps=0
M1008 gnd bi a_36_6# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=100 ps=50
M1009 pi bi a_32_49# w_3_39# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1010 a_16_9# ai vdd w_3_39# CMOSP w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1011 pi a_36_6# a_32_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
C0 w_3_39# bi 0.22fF
C1 a_16_9# pi 0.03fF
C2 bi a_36_6# 0.23fF
C3 ai a_16_9# 0.07fF
C4 bi gnd 0.05fF
C5 w_3_39# a_16_9# 0.16fF
C6 vdd pi 0.50fF
C7 a_16_9# a_36_6# 0.07fF
C8 w_3_39# vdd 0.47fF
C9 a_16_9# gnd 0.50fF
C10 ai pi 0.08fF
C11 vdd a_36_6# 0.64fF
C12 w_3_39# pi 0.33fF
C13 w_3_39# ai 0.18fF
C14 a_36_6# pi 1.37fF
C15 ai a_36_6# 0.16fF
C16 gnd pi 0.27fF
C17 ai gnd 0.63fF
C18 w_3_39# a_36_6# 0.66fF
C19 a_36_6# gnd 0.24fF
C20 bi a_16_9# 0.04fF
C21 vdd bi 0.15fF
C22 bi pi 0.09fF
C23 bi ai 0.03fF
C24 vdd a_16_9# 0.86fF
C25 gnd Gnd 0.42fF
C26 pi Gnd 0.31fF
C27 vdd Gnd 0.03fF
C28 a_36_6# Gnd 0.22fF
C29 a_16_9# Gnd 0.19fF
C30 ai Gnd 0.51fF
C31 bi Gnd 0.00fF
C32 w_3_39# Gnd 4.98fF
.ends pi_calc




.subckt c2_calc p1 g0 g1 c2 vdd gnd S=1 
M1000 c2 a_24_9# vdd inverter_0/w_0_n60# CMOSP w=40 l=2
+  ad=200 pd=90 as=440 ps=182
M1001 c2 a_24_9# gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=300 ps=150
M1002 gnd g1 a_24_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=120 ps=52
M1003 a_9_49# p1 vdd w_3_39# CMOSP w=40 l=2
+  ad=440 pd=182 as=0 ps=0
M1004 a_24_9# g1 a_9_49# w_3_39# CMOSP w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1005 a_16_9# g0 gnd Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1006 vdd g0 a_9_49# w_3_39# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1007 a_24_9# p1 a_16_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
C0 g0 vdd 0.13fF
C1 a_9_49# vdd 0.95fF
C2 w_3_39# g0 0.12fF
C3 inverter_0/w_0_n60# vdd 0.14fF
C4 a_24_9# a_9_49# 0.54fF
C5 w_3_39# a_9_49# 0.12fF
C6 a_24_9# inverter_0/w_0_n60# 0.09fF
C7 g1 vdd 0.13fF
C8 g0 p1 0.20fF
C9 a_24_9# g1 0.08fF
C10 p1 a_9_49# 0.08fF
C11 a_24_9# vdd 0.03fF
C12 w_3_39# g1 0.12fF
C13 w_3_39# vdd 0.13fF
C14 c2 inverter_0/w_0_n60# 0.08fF
C15 a_24_9# w_3_39# 0.08fF
C16 a_24_9# gnd 0.32fF
C17 c2 vdd 0.45fF
C18 p1 g1 0.20fF
C19 p1 vdd 0.13fF
C20 a_24_9# c2 0.05fF
C21 w_3_39# p1 0.12fF
C22 g0 a_9_49# 0.08fF
C23 c2 gnd 0.24fF
C24 gnd Gnd 0.40fF
C25 vdd Gnd 0.01fF
C26 w_3_39# Gnd 2.41fF
C27 c2 Gnd 0.11fF
C28 a_24_9# Gnd 0.26fF
C29 inverter_0/w_0_n60# Gnd 1.51fF
.ends c2_calc



.subckt c3_calc p1 p2 g0 g1 g2 c3 vdd gnd S=1 
M1000 c3 a_48_9# vdd inverter_0/w_0_n60# CMOSP w=40 l=2
+  ad=200 pd=90 as=640 ps=272
M1001 c3 a_48_9# gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=400 ps=200
M1002 a_48_9# p2 a_24_9# Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=220 ps=102
M1003 gnd g1 a_24_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1004 a_9_49# p1 vdd w_3_39# CMOSP w=40 l=2
+  ad=440 pd=182 as=0 ps=0
M1005 gnd g2 a_48_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1006 a_32_49# p2 vdd w_3_39# CMOSP w=40 l=2
+  ad=440 pd=182 as=0 ps=0
M1007 a_32_49# g1 a_9_49# w_3_39# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1008 a_16_9# g0 gnd Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1009 vdd g0 a_9_49# w_3_39# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1010 a_48_9# g2 a_32_49# w_3_39# CMOSP w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1011 a_24_9# p1 a_16_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
C0 p1 g0 0.20fF
C1 inverter_0/w_0_n60# a_48_9# 0.09fF
C2 a_48_9# g2 0.08fF
C3 a_48_9# a_24_9# 0.28fF
C4 g1 p1 0.20fF
C5 vdd g0 0.13fF
C6 vdd p1 0.13fF
C7 a_9_49# g0 0.08fF
C8 vdd c3 0.45fF
C9 p2 a_32_49# 0.08fF
C10 vdd a_32_49# 0.95fF
C11 a_9_49# p1 0.08fF
C12 vdd g1 0.13fF
C13 a_9_49# a_32_49# 0.48fF
C14 inverter_0/w_0_n60# c3 0.08fF
C15 vdd p2 0.13fF
C16 a_48_9# w_3_39# 0.08fF
C17 a_24_9# a_32_49# 0.08fF
C18 vdd a_9_49# 0.95fF
C19 a_24_9# g1 0.08fF
C20 a_48_9# gnd 0.35fF
C21 inverter_0/w_0_n60# vdd 0.14fF
C22 g2 p2 0.20fF
C23 vdd g2 0.13fF
C24 w_3_39# g0 0.12fF
C25 a_24_9# a_9_49# 0.03fF
C26 p1 w_3_39# 0.12fF
C27 w_3_39# a_32_49# 0.13fF
C28 g1 w_3_39# 0.12fF
C29 gnd c3 0.24fF
C30 a_24_9# a_16_9# 0.21fF
C31 p2 w_3_39# 0.12fF
C32 vdd w_3_39# 0.25fF
C33 a_9_49# w_3_39# 0.12fF
C34 g2 w_3_39# 0.12fF
C35 a_24_9# gnd 0.53fF
C36 a_16_9# gnd 0.24fF
C37 a_48_9# c3 0.05fF
C38 a_48_9# a_32_49# 0.51fF
C39 a_48_9# vdd 0.03fF
C40 a_24_9# Gnd 0.11fF
C41 a_16_9# Gnd 0.01fF
C42 gnd Gnd 0.51fF
C43 w_3_39# Gnd 3.86fF
C44 c3 Gnd 0.10fF
C45 a_48_9# Gnd 0.26fF
C46 inverter_0/w_0_n60# Gnd 1.51fF
.ends c3_calc



.subckt c4_calc p1 p2 p3 g0 g1 g2 g3 c4 vdd gnd S=1 
M1000 c4 a_72_9# vdd inverter_0/w_0_n60# CMOSP w=40 l=2
+  ad=200 pd=90 as=840 ps=362
M1001 c4 a_72_9# gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=500 ps=250
M1002 a_72_9# g3 a_56_49# w_3_39# CMOSP w=40 l=2
+  ad=200 pd=90 as=440 ps=182
M1003 a_48_9# p2 a_24_9# Gnd CMOSN w=20 l=2
+  ad=220 pd=102 as=220 ps=102
M1004 gnd g1 a_24_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1005 a_9_49# p1 vdd w_3_39# CMOSP w=40 l=2
+  ad=440 pd=182 as=0 ps=0
M1006 gnd g2 a_48_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1007 a_32_49# p2 vdd w_3_39# CMOSP w=40 l=2
+  ad=440 pd=182 as=0 ps=0
M1008 gnd g3 a_72_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=120 ps=52
M1009 a_32_49# g1 a_9_49# w_3_39# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1010 a_56_49# p3 vdd w_3_39# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1011 a_16_9# g0 gnd Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1012 vdd g0 a_9_49# w_3_39# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1013 a_56_49# g2 a_32_49# w_3_39# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1014 a_72_9# p3 a_48_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1015 a_24_9# p1 a_16_9# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
C0 a_16_9# a_24_9# 0.21fF
C1 p2 vdd 0.13fF
C2 a_56_49# w_3_39# 0.13fF
C3 a_72_9# a_48_9# 0.28fF
C4 p1 vdd 0.13fF
C5 a_56_49# a_48_9# 0.08fF
C6 p1 g0 0.20fF
C7 a_32_49# a_9_49# 0.48fF
C8 inverter_0/w_0_n60# c4 0.08fF
C9 g3 vdd 0.13fF
C10 a_72_9# gnd 0.35fF
C11 g1 w_3_39# 0.12fF
C12 g0 vdd 0.13fF
C13 a_24_9# g1 0.08fF
C14 a_16_9# gnd 0.24fF
C15 w_3_39# g2 0.12fF
C16 a_72_9# vdd 0.03fF
C17 w_3_39# a_9_49# 0.12fF
C18 a_24_9# a_9_49# 0.03fF
C19 a_72_9# g3 0.08fF
C20 a_32_49# w_3_39# 0.13fF
C21 a_56_49# vdd 0.95fF
C22 a_24_9# a_32_49# 0.08fF
C23 a_48_9# g2 0.08fF
C24 p2 g2 0.20fF
C25 a_32_49# a_48_9# 0.03fF
C26 a_72_9# a_56_49# 0.51fF
C27 w_3_39# p3 0.12fF
C28 p1 g1 0.20fF
C29 a_32_49# p2 0.08fF
C30 p1 a_9_49# 0.08fF
C31 inverter_0/w_0_n60# vdd 0.14fF
C32 g1 vdd 0.13fF
C33 a_24_9# a_48_9# 0.28fF
C34 w_3_39# p2 0.12fF
C35 g2 vdd 0.13fF
C36 a_9_49# vdd 0.95fF
C37 a_72_9# inverter_0/w_0_n60# 0.09fF
C38 a_32_49# vdd 0.95fF
C39 p1 w_3_39# 0.12fF
C40 g0 a_9_49# 0.08fF
C41 c4 gnd 0.24fF
C42 p3 vdd 0.13fF
C43 c4 vdd 0.45fF
C44 a_24_9# gnd 0.53fF
C45 w_3_39# vdd 0.37fF
C46 a_32_49# a_56_49# 0.48fF
C47 p3 g3 0.20fF
C48 w_3_39# g3 0.12fF
C49 a_48_9# gnd 0.53fF
C50 a_72_9# c4 0.05fF
C51 w_3_39# g0 0.12fF
C52 a_72_9# w_3_39# 0.08fF
C53 a_56_49# p3 0.08fF
C54 a_48_9# Gnd 0.11fF
C55 a_24_9# Gnd 0.11fF
C56 a_16_9# Gnd 0.01fF
C57 gnd Gnd 0.62fF
C58 w_3_39# Gnd 5.30fF
C59 c4 Gnd 0.11fF
C60 a_72_9# Gnd 0.25fF
C61 inverter_0/w_0_n60# Gnd 1.51fF
.ends c4_calc


x1 a0 b0 p0 vdd gnd pi_calc
x2 a1 b1 p1 vdd gnd pi_calc
x3 a2 b2 p2 vdd gnd pi_calc
x4 a3 b3 p3 vdd gnd pi_calc

x5 a0 b0 g0 vdd gnd g_calc
x6 a1 b1 g1 vdd gnd g_calc
x7 a2 b2 g2 vdd gnd g_calc
x8 a3 b3 g3 vdd gnd g_calc

x10 p1 g0 g1 c2 vdd gnd c2_calc
x11 p1 p2 g0 g1 g2 c3 vdd gnd c3_calc
x12 p1 p2 p3 g0 g1 g2 g3 c4 vdd gnd c4_calc

R1 p0 s0 0
x13 g0 p1 s1 vdd gnd pi_calc
x14 c2 p2 s2 vdd gnd pi_calc
x15 c3 p3 s3 vdd gnd pi_calc

*256
.tran 1ps 256ns

.control
run
set curplottitle="Hrishikesh-2024122006-q3-input"
plot v(a0) 2+v(a1) 4+v(a2) 6+v(a3) 8+v(b0) 10+v(b1) 12+v(b2) 14+v(b3)
set curplottitle="Hrishikesh-2024122006-q3-output"
plot v(s0) 2+v(s1) 4+v(s2) 6+v(s3) 8+v(c4)
plot v(g0) 2+v(c2) 4+v(c3) 6+v(c4)
*plot @vdd[p]
set hcopypscolor = 1

*hardcopy q4.eps 
.endc